US07230011B2
4-Fluorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
To a solution-of 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (500 mg, 2.2 mmol) and triethylamine (333 μL, 2.4 mmol) in THF (5 mL) and DMF (5 mL) was added 4-fluorobenzenesulfonyl chloride (465 mg, 2.4 mmol). The reaction mixture was stirred at ambient temperature for 18 h. The reaction mixture was cooled on an ice bath and diluted with ethyl acetate. The diluted reaction mixture was washed with cold 0.2 N NaOH, cold water, brine, dried (Na2SO4), filtered and concentrated under reduced pressure to give a white foam. The foam was crystallized from ethyl acetate to give 360 mg of a white powder. The mother liquors were purified by radial chromatography (silica gel, 2000 micron rotor, 5% methanol and 0.5% ammonium hydroxide in methylene chloride then 10% methanol and 0.5% ammonium hydroxide in methylene chloride) to give 297 mg (78%) total yield of a clear oil. The oil was crystallized from ethyl acetate/hexanes to give a white powder: mp 170-172° C.; MS(m/e): 388 (M+); Calculated for C20H21FN2O3S: C, 61.84; H, 5.45; N, 7.21. Found: C, 62.13; H, 5.58; N, 7.25.

reactant | 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 2.2 mmol, 500 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
reactant | triethylamine | 2.4 mmol, 333 μL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzenesulfonyl chloride | 2.4 mmol, 465 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Fluorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 360 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=CC=C(C=C1)F | C20H21FN2O3S
